US06555557B1
Preparation of 3-cyano-4-methylpyridine
3-Bromo-4-methylpyridine (20.0 g, 116 mmol) is dissolved in DMF (100 ml), and thereto is added cuprous cyanide (11.6 g, 30 mmol), and the mixture is heated under reflux for 18 hours. After cooling, a 25% aqueous ammonia (200 ml) and a saturated aqueous ammonium chloride solution (200 ml) are added to the reaction solution, and the mixture is extracted with ethyl acetate (200 ml×5). The organic layer is washed with a saturated brine (100 ml), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (eluent: ethyl acetate/hexane) to give the title compound (11.0 g) as colorless crystals, m.p. 75-78° C.

reactant | 3-Bromo-4-methylpyridine | 116 mmol, 20.0 g | BrC=1C=NC=CC1C | C6H6BrN
reactant | ammonia | 200 ml | N | H3N
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 3-cyano-4-methylpyridine | 11.0 g | C(#N)C=1C=NC=CC1C | C7H6N2
